US08247341B2
Diethyl 2,2′-(dimethylsilanediyl)diacetate:
An oven-dried 100 mL-RB flask is charged with ethyl acetate (5.3 g, 0.06 mol), and triethylamine (6.1 g, 0.06 mol). The flask is then cooled in an ice-water bath, and dimethylsilanediyl bis(trifluoromethanesulfonate) (10.7 g, 0.03 mol) is added dropwise. After stirring at 0° C. for 1 h, the mixture is warmed up to room temperature and stirred overnight. The mixture is poured into ice-water and then extracted with diethyl ether. The combined ether extract is washed with brine and dried over sodium sulfate. After filtration, the filtrate is concentrated and the residue is distilled in a Kugelrohr to yield 1.6 g (23%) of the product as a light-yellowish oil. 1H NMR (500 MHz, CDCl3, in ppm) δ 4.10 (q, 4H, J=7.5 Hz), 1.99 (s, 4H), 1.24 (t, 6H, J=7.5 Hz), 0.22 (s, 6H).

reactant | ethyl acetate | 0.06 mol, 5.3 g | C(C)(=O)OCC | C4H8O2
reactant | triethylamine | 0.06 mol, 6.1 g | C(C)N(CC)CC | C6H15N
reactant | dimethylsilanediyl bis(trifluoromethanesulfonate) | 0.03 mol, 10.7 g | FC(S(=O)(=O)O[Si](C)(C)OS(=O)(=O)C(F)(F)F)(F)F | C4H6F6O6S2Si
product | Diethyl 2,2′-(dimethylsilanediyl)diacetate | 1.6 g, 23% | C[Si](CC(=O)OCC)(CC(=O)OCC)C | C10H20O4Si
